2121-06-18 06:58:00 Physician Resident Progress Note
Chief Complaint: Complicated medical history of IVDA, multiple
   infectious complications including epidural abscess ([**2118**]), septic
   arthritis ([**2119**]).  Transferred from OSH with tachycardia, fever, WBC
   40,000, and disorientation.
   24 Hour Events:
   - blood cx positive for GPC in clusters 4/4 bottles
   - needs surgery consult (Dr. [**Last Name (STitle) 7570**] or Dr. [**First Name (STitle) **] and needs ID consult
   -GI recs EGD and [**Last Name (un) **] once stable and to follow LFT's
   - MRI plus/minus gado as per neuro and ID recs
   - GI recs: abd US for CBD/liver/spleen, Hep C VL and genotype
   - scheduled for CT guided aspiration/biopsy of pelvic sidewall
   - c/o severe back pain this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-17**] 04:45 PM
   Ciprofloxacin - [**2121-6-17**] 10:00 PM
   Vancomycin - [**2121-6-17**] 11:07 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-18**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 130 (116 - 147) bpm
   BP: 127/64(76) {109/51(65) - 160/97(101)} mmHg
   RR: 18 (18 - 47) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,678 mL
                                                                    701 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  4,678 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  4,780 mL
                                                                  1,100 mL
   Urine:
                                                                  3,580 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -399 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: 7.47/27/67/23/-1
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, dry mouth
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   tachypnea markedly improved, occ crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, moves all extremities
   equally, oriented to name/place/month/year/president
   Labs / Radiology
   183 K/uL
   10.6 g/dL
   106 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.1 mEq/L
   39 mg/dL
   111 mEq/L
   143 mEq/L
   31.6 %
   34.8 K/uL
        [image002.jpg]
                             [**2121-6-17**]  06:56 AM
                             [**2121-6-17**]  07:11 AM
                             [**2121-6-17**]  09:11 AM
                             [**2121-6-17**]  10:20 AM
                             [**2121-6-17**]  02:16 PM
                             [**2121-6-17**]  05:00 PM
                             [**2121-6-17**]  08:59 PM
                             [**2121-6-18**]  03:05 AM
   WBC
   32.4
   34.8
   Hct
   35.5
   32.6
   33.5
   32.3
   31.9
   31.6
   Plt
   183
   183
   Cr
   1.2
   1.2
   1.1
   TropT
   <0.01
   TCO2
   20
   Glucose
   143
   106
   106
   Other labs: PT / PTT / INR:16.7/24.1/1.5, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:[**12-10**], Alk Phos / T Bili:155/2.0,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Albumin:2.0 g/dL, LDH:318 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Micro
   C diff [**2121-6-18**]
 pending
   C diff 7/709
 neg
   Blood with GPC in clusters 4/4 bottles
   Assessment and Plan
   55yo M with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   dark diahrrea, tachypnea, atrial tachy-arrhythimia, and GPC bacteremia.
   # Sepsis/GPC bacteremia: sepsis in a man with IVDA and multiple prior
   infections.  Prior DDX was line infection vs. C diff (given diarrhea
   and high WBC) vs. biliary system vs. lungs vs. joints.  Given his new
   GPC bacteremia, suspect IVDU Staph bacteremia.  No obvious source for
   likely Staph bacteremia but unclear when he last used IV drugs.
   - cont broad covg with IV vanco/zosyn/cipro/PO vanco. UCx pending.
   - will check vanc level this PM.
   - d/c EJ line with plan for PICC tomorrow
   - TEE to r/o endocarditis
   - Aggressive fluid resuscitation: target is UOP and tachycardia not a
   reliable marker.
   - Will image spine.
   - ID agrees with our w/u: image spine, IR guided aspiration of pelvic
   fluid, continue vanco for GPC bacteremia, pull the EJ.
   #  Back Pain: NSGY highly concerned for recurrence of abcess as they
   are under impression that laminectomy occured in [**2121-1-12**] when in fact
   occured in [**2119-1-12**]. Still on differential, but feel that this is the
   less likely etiology.  CT showing extensive peritoneal and
   retroperitoneal adenopathy and ? mass/abscess along pelvic wall.  LD
   elevated but not to level expected from a lymphoma.
   - plan for aspiration of pelvic collection today.   Will send fluid for
   gram stain, culture, send adenopathy tissue for pathology.
   - Given GPC in blood, hard to believe pelvis is source or even a
   metastatic focus but will aspirate under CT today.
   - MRI to assess possible spinal pathology
   # Painful L toe: ddx includes seeding from GPC bacteremia vs. crystal
   arthropathy (as pt gives hx of chronically painful toe).  Will not tap
   joint, since we are concerned for seeding/active infection.
   - will start low dose colchicine and monitor for improvement.
   #  Diahrrea: may be primary infection, though seems unlikely: guiaic
   positive but not melena, especially considering that Hct has [**Doctor First Name **] stable
   despite large amounts of dark stool. Given marked leukocytosis, concern
   for CDIFF. Toxin sent, initial neg. Empiric po vanco started.
   # Resp Status: Tenuous with tachypnea with wide A-a gradient, but
   improved today. Tachypnea may be mediated by cytokines related to
   sepsis.  Stable this AM on room air.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   # Tachycardia: Atrial tachyarrhtymia. Hemodynamically tolearting
   elevated rate. Rate not indicative of intravascular depletion, but will
   rate control with metoprolol 12.5 mg TID
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-17**] 08:00 AM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: presumed full
   Disposition: ICU

2121-06-19 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - blood and stool cx sent [**2121-6-18**]
   - underwent IR guided aspiration/tissue sample from pelvic sidewall
   - ID recs: MRI spine, CT or US the R elbow and L foot/ankle, check
   vanco trough, HIV Ab, possible TEE (since surface echo unremarkable),
   dental consult
   - will need to put in for PICC today
   - started on dilt gtt given tachycardia/tachypneic (15 mg/hr)
   - ABG since pt slightly tachypnic to 30s-40s; shows resp alkalosis
   - feels slightly better this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-6-18**] 07:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-19**] 12:00 AM
   Vancomycin - [**2121-6-19**] 12:03 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2121-6-18**] 11:50 AM
   Diltiazem - [**2121-6-18**] 06:55 PM
   Pantoprazole (Protonix) - [**2121-6-18**] 07:30 PM
   Morphine Sulfate - [**2121-6-19**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-19**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 100 (100 - 158) bpm
   BP: 112/55(67) {99/50(62) - 153/88(100)} mmHg
   RR: 36 (8 - 46) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,718 mL
                                                                  1,967 mL
   PO:
                                                                    990 mL
                                                                  1,080 mL
   TF:
   IVF:
                                                                  2,728 mL
                                                                    887 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    850 mL
   Urine:
                                                                  3,585 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                  1,117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.53/28/122/20/2
   Physical Examination
   Gen
l: less alert for me this AM, somewhat SOB
   Chest: crackles at both bases, end insp
   CV: tachy, irreg rhythm, w/o m
   Ext: left toe with warmth and swelling, R elbow with [**Month (only) 453**] ROM
   Labs / Radiology
   183 K/uL
   10.6 g/dL
   225 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   34 mg/dL
   111 mEq/L
   142 mEq/L
   31.6 %
   34.8 K/uL
        [image002.jpg]
                             [**2121-6-17**]  06:56 AM
                             [**2121-6-17**]  07:11 AM
                             [**2121-6-17**]  09:11 AM
                             [**2121-6-17**]  10:20 AM
                             [**2121-6-17**]  02:16 PM
                             [**2121-6-17**]  05:00 PM
                             [**2121-6-17**]  08:59 PM
                             [**2121-6-18**]  03:05 AM
                             [**2121-6-18**]  08:30 PM
                             [**2121-6-18**]  10:48 PM
   WBC
   32.4
   34.8
   Hct
   35.5
   32.6
   33.5
   32.3
   31.9
   31.6
   Plt
   183
   183
   Cr
   1.2
   1.2
   1.1
   1.2
   TropT
   <0.01
   TCO2
   20
   24
   Glucose
   143
   106
   106
   225
   Other labs: PT / PTT / INR:16.7/24.1/1.5, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:[**12-10**], Alk Phos / T Bili:155/2.0,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:318 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Micro
   Pelvic abscess
 1+ PMH, no organisms
   C diff neg x 2
   Coag pos staph from line
   Assessment and Plan
   55yo M with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   dark diahrrea, tachypnea, atrial tachy-arrhythimia, and GPC bacteremia.
   # Sepsis/GPC bacteremia: sepsis in a man with IVDA and multiple prior
   infections.  Prior DDX was line infection vs. C diff (given diarrhea
   and high WBC) vs. biliary system vs. lungs vs. joints.  Given his new
   GPC bacteremia, suspect IVDU Staph bacteremia.  No obvious source for
   likely Staph bacteremia but unclear when he last used IV drugs.
   - cont broad covg with IV vanco/zosyn/cipro/PO vanco. UCx pending.
   - will check vanc level this PM.
   - d/c EJ line with plan for PICC tomorrow
   - TEE to r/o endocarditis
   - Aggressive fluid resuscitation: target is UOP and tachycardia not a
   reliable marker.
   - Will image spine.
   - ID agrees with our w/u: image spine, IR guided aspiration of pelvic
   fluid, continue vanco for GPC bacteremia, pull the EJ.  Consider dental
   consult for his teeth as a potential source for his bacteremia.
   #  Back Pain: NSGY highly concerned for recurrence of abcess as they
   are under impression that laminectomy occured in [**2121-1-12**] when in fact
   occured in [**2119-1-12**]. Still on differential, but feel that this is the
   less likely etiology.  CT showing extensive peritoneal and
   retroperitoneal adenopathy and ? mass/abscess along pelvic wall.  LD
   elevated but not to level expected from a lymphoma.
   - plan for aspiration of pelvic collection today.   Will send fluid for
   gram stain, culture, send adenopathy tissue for pathology.
   - Given GPC in blood, hard to believe pelvis is source or even a
   metastatic focus but will aspirate under CT today.
   - MRI to [**Year (4 digits) **] possible spinal pathology
   # Painful L toe: ddx includes seeding from GPC bacteremia vs. crystal
   arthropathy (as pt gives hx of chronically painful toe).  Will not tap
   joint, since we are concerned for seeding/active infection.
   - will start low dose colchicine and monitor for improvement.
   #  Diahrrea: may be primary infection, though seems unlikely: guiaic
   positive but not melena, especially considering that Hct has [**Doctor First Name **] stable
   despite large amounts of dark stool. Given marked leukocytosis, concern
   for CDIFF. Toxin sent, initial neg. Empiric po vanco started.
   # Resp Status: Tenuous with tachypnea with wide A-a gradient, but
   improved today. Tachypnea may be mediated by cytokines related to
   sepsis.  Stable this AM on room air.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   # Tachycardia: Atrial tachyarrhtymia. Hemodynamically tolearting
   elevated rate. Rate not indicative of intravascular depletion, but will
   rate control with metoprolol 12.5 mg TID
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-17**] 08:00 AM
   18 Gauge - [**2121-6-18**] 04:00 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: presumed full
   Disposition: ICU
   WBC 33k
   CXR
 pulm vasc congestion
   Awaiting [**Last Name (un) 46**] on Staph.  Awaiting MR [**First Name (Titles) **] [**Last Name (Titles) **] possibility of
   metastatic focus in back.  Concern is back and elbow may be site of
   metastatic infection.  Remains on Vanco pending cx.  Will ask Ortho to
   [**Last Name (Titles) **] elbow for need for aspiration.  Diarrhea is stable. C diff neg x
   2
 will d/c po Vanco after 3rd.  Now on dilt gtt for HR control
 will
   start oral rx when he is taking pos.

2121-06-20 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2121-6-19**] 12:20 PM
 BLOOD CULTURED - At [**2121-6-20**] 03:45 AM
 FEVER - 101.3
F - [**2121-6-19**] 05:00 PM
   - plain films of upper extremities to look for venous thromboembolism
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-19**] 04:00 PM
   Ciprofloxacin - [**2121-6-19**] 07:20 PM
   Vancomycin - [**2121-6-19**] 10:25 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-19**] 07:15 PM
   Morphine Sulfate - [**2121-6-19**] 10:30 PM
   Lorazepam (Ativan) - [**2121-6-20**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-20**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 96 (87 - 124) bpm
   BP: 105/53(65) {97/46(59) - 122/60(73)} mmHg
   RR: 38 (14 - 43) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 101 kg (admission): 98.5 kg
             Total In:
                                                                  4,739 mL
                                                                    278 mL
   PO:
                                                                  2,660 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,079 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    700 mL
   Urine:
                                                                  3,050 mL
                                                                    700 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,639 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, dry mouth
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   tachypnea markedly improved, occ crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, moves all extremities
   equally, oriented to name/place/month/year/president
   Labs / Radiology
   209 K/uL
   9.1 g/dL
   97 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   134 mEq/L
   28.3 %
   39.4 K/uL
        [image002.jpg]
                             [**2121-6-17**]  09:11 AM
                             [**2121-6-17**]  10:20 AM
                             [**2121-6-17**]  02:16 PM
                             [**2121-6-17**]  05:00 PM
                             [**2121-6-17**]  08:59 PM
                             [**2121-6-18**]  03:05 AM
                             [**2121-6-18**]  08:30 PM
                             [**2121-6-18**]  10:48 PM
                             [**2121-6-19**]  07:10 AM
                             [**2121-6-20**]  02:53 AM
   WBC
   32.4
   34.8
   33.7
   39.4
   Hct
   32.6
   33.5
   32.3
   31.9
   31.6
   30.2
   28.3
   Plt
   183
   183
   192
   209
   Cr
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   TropT
   <0.01
   TCO2
   24
   Glucose
   143
   106
   106
   225
   158
   97
   Other labs: PT / PTT / INR:16.7/25.8/1.5, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:6.9
   mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KNOWLEDGE DEFICIT
 BACK PAIN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55yo M with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   dark diahrrea, tachypnea, atrial tachy-arrhythimia, and Coag pos Staph
   bacteremia.
   # Sepsis/Coag pos staph bacteremia: sepsis in a man with IVDA and
   multiple prior infections.  Likely suspect line infection, but have
   also considered spinal etiology, oral etiology, pelvic fluid etiology.
   Given his new GPC bacteremia, suspect IVDU Staph bacteremia.  Remains
   unclear when he last used IV drugs.
   - cont broad covg with IV vanco/zosyn/cipro until speciation results.
   UCx pending.
   - d/c
ed EJ line,
   - Put in for TEE
   - ID agrees with our w/u: image spine, IR guided aspiration of pelvic
   fluid, continue vanco for GPC bacteremia, pull the EJ.  Consider dental
   consult for his teeth as a potential source for his bacteremia.
   #  Back Pain: NSGY highly concerned for recurrence of abcess as they
   are under impression that laminectomy occured in [**2121-1-12**] when in fact
   occured in [**2119-1-12**]. Still on differential, but feel that this is the
   less likely etiology.  CT showing extensive peritoneal and
   retroperitoneal adenopathy and ? mass/abscess along pelvic wall.  LD
   elevated but not to level expected from a lymphoma.
   - underwent aspiration of pelvic collection.   Will send fluid for gram
   stain, culture, send adenopathy tissue for pathology.
   - Given GPC in blood, hard to believe pelvis is source or even a
   metastatic focus but will aspirate under CT today.
   - MRI to assess possible spinal pathology
   # Painful L toe/right elbow: ddx for this polyarthropathy includes
   seeding from GPC bacteremia vs. crystal arthropathy (as pt gives hx of
   chronically painful toe).  Will not tap the left toe, since we are
   concerned for seeding/active infection.  Will tap the elbow which is
   severely limited in range of motion.
   - started low dose colchicine and monitor for improvement.
   - the above represents possible metastatic focus
   #  Diahrrea: may be primary infection, though seems unlikely: guiaic
   positive but not melena, especially considering that Hct has [**Doctor First Name **] stable
   despite large amounts of dark stool. Given marked leukocytosis, concern
   for CDIFF. Toxin sent, neg x 2. Empiric po vanco can be stopped soon.
   # Resp Status: Tenuous with tachypnea with wide A-a gradient, but
   improved today. Tachypnea may be mediated by cytokines related to
   sepsis.  Stable this AM on room air.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   # Tachycardia: Atrial tachyarrhtymia. Hemodynamically tolearting
   elevated rate. Rate not indicative of intravascular depletion, but will
   rate control with metoprolol 12.5-25 mg TID.  Will try to wean dilt
   gtt.
   # FEN: No IVF, replete electrolytes, NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-17**] 08:00 AM
   18 Gauge - [**2121-6-18**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2121-06-21 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2121-6-20**] 10:00 PM
   -scheduled for MRI and TEE under elective intubation in AM
   -switched to PO dilt
   -ordered HIV test
   -no PICC [**1-13**] leukocytosis
   -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-6-19**] 07:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-20**] 08:00 AM
   Vancomycin - [**2121-6-20**] 10:06 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2121-6-20**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 92 (87 - 104) bpm
   BP: 101/54(65) {95/33(52) - 122/62(71)} mmHg
   RR: 32 (25 - 44) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  1,141 mL
                                                                     72 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    781 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                  1,290 mL
   Urine:
                                                                  2,780 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,639 mL
                                                                 -1,218 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   Chest
 scattered mid insp crackles
   Extrem
 better passive ROM of R elbow, left toe remains with
   erythema/warmth/swelling
   Labs / Radiology
   290 K/uL
   8.1 g/dL
   97 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   134 mEq/L
   24.3 %
   31.8 K/uL
        [image002.jpg]
                             [**2121-6-17**]  10:20 AM
                             [**2121-6-17**]  02:16 PM
                             [**2121-6-17**]  05:00 PM
                             [**2121-6-17**]  08:59 PM
                             [**2121-6-18**]  03:05 AM
                             [**2121-6-18**]  08:30 PM
                             [**2121-6-18**]  10:48 PM
                             [**2121-6-19**]  07:10 AM
                             [**2121-6-20**]  02:53 AM
                             [**2121-6-21**]  05:49 AM
   WBC
   32.4
   34.8
   33.7
   39.4
   31.8
   Hct
   32.6
   33.5
   32.3
   31.9
   31.6
   30.2
   28.3
   24.3
   Plt
   183
   183
   192
   209
   290
   Cr
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   TCO2
   24
   Glucose
   143
   106
   106
   225
   158
   97
   Other labs: PT / PTT / INR:16.7/25.8/1.5, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:6.9
   mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Micro
   Pelvic abscess
 MRSA
   [**6-18**] coag pos staph
   Assessment and Plan
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KNOWLEDGE DEFICIT
 BACK PAIN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down
   - will continue vancomycin
   - will try to have TEE done while patient is intubated for MRI
   - will d/w surgery re: Rx for pelvic infection and whether this is
   communicating with epidural abscess.
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on vanc
   - pt to get MRI of spine tomorrow while intubated
   - prior images suspicious for epidural phlegmon or abscess; will
   re-assess at f/u MRI
   # Painful L toe/right elbow
   - started low dose colchicine without improvement
   - L toe appears fluctuant and will get I and D after confirming
   fluctuance with US
   - ortho was unable to get fluid out of elbow yesterday
   -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   - will add leg MRI to the back MRI he is already planned for
   #  Diahrrea
   - c.diff was negative x 3
 will stop PO vanc
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
   # Resp Status: previous tachypnea with wide A-a gradient, but improved
   today. Tachypnea may be mediated by cytokines related to sepsis.
   Stable this AM on room air.
   - no acute issues at this time
   # Anemia
 Hct 28 to 24 this AM.  Does not appear to be dilutional.
   - will guiac stools, q 8 Hct x 3, order for T&C.
   - GI following.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   - continue to monitor for any acute mental status changes
   # Tachycardia
   - pt is on diltiazem gtt
 have transitioned to PO
   # FEN: NPO after MN for procedures tomorrow
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  Will place CVL today and consider A line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-17**] 08:00 AM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP: off vent
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2121-06-22 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2121-6-21**] 08:28 AM
   intubated without difficulty w/7.5 tube by anesthesia after receiving
   100mg Succs, 200mg Etomidate
 TRANS ESOPHAGEAL ECHO - At [**2121-6-21**] 09:32 AM
 MULTI LUMEN - START [**2121-6-21**] 11:07 AM
 ARTERIAL LINE - START [**2121-6-21**] 01:16 PM
 MAGNETIC RESONANCE IMAGING - At [**2121-6-21**] 05:30 PM
 FEVER - 102.3
F - [**2121-6-21**] 08:00 PM
   - dropped pressure s/p intubation and sedation with propofol
   - given fluids, A lined, central lined, and low dose neo added
   - currently on 3 versed, 150 fentanyl, 0.7 neo
   - TEE normal
   - called by radiology: findings of foot MRI c/w dorsal fx of 2nd MTP
   joint as well as septic joint.
   - called by radiology regarding spine: epidural enhancement from L4-S1,
   edema thru all soft tissue in lower spine and psoas, rim enhancing
   fluid pockets near L5-S1 sitting in erector spinae muscle, high signal
   at right half of upper sacrum. overall diffuse inflammation and likely
   infection with focal areas of abscess formation. the cauda equina
   appears unusual (? arachnoiditis). very likely that this inflammation
   is tracking out of sacral foramina and into pre-sacral soft tissue.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-6-19**] 07:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-20**] 08:00 AM
   Vancomycin - [**2121-6-21**] 10:11 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-21**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-22**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.2
C (98.9
   HR: 87 (57 - 97) bpm
   BP: 94/55(70) {82/40(56) - 130/70(86)} mmHg
   RR: 20 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  4,588 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  4,588 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  2,586 mL
                                                                    775 mL
   Urine:
                                                                  2,386 mL
                                                                    775 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,002 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.37/35/139/21/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen
l: intubated, sedated
   Chest: coarse BS, mid insp crackles
   Extrem: better passive ROM of right arm, left toe remains with
   erythema, warmth, and swelling.
   Labs / Radiology
   358 K/uL
   8.5 g/dL
   102 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.1 mEq/L
   29 mg/dL
   111 mEq/L
   139 mEq/L
   26.2 %
   30.7 K/uL
        [image002.jpg]
                             [**2121-6-18**]  03:05 AM
                             [**2121-6-18**]  08:30 PM
                             [**2121-6-18**]  10:48 PM
                             [**2121-6-19**]  07:10 AM
                             [**2121-6-20**]  02:53 AM
                             [**2121-6-21**]  05:49 AM
                             [**2121-6-21**]  12:09 PM
                             [**2121-6-21**]  01:30 PM
                             [**2121-6-21**]  08:32 PM
                             [**2121-6-22**]  05:42 AM
   WBC
   34.8
   33.7
   39.4
   31.8
   30.7
   Hct
   31.6
   30.2
   28.3
   24.3
   24.5
   24.8
   26.2
   Plt
   183
   192
   209
   290
   358
   Cr
   1.1
   1.2
   1.2
   1.1
   1.0
   1.1
   TCO2
   24
   21
   Glucose
   106
   225
   158
   97
   82
   102
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Micro
   Blood cx [**6-20**]
 GPC in pairs and clusters
   Abscess positive on [**2121-6-16**]
 GPC in blood
   Blood cx [**6-17**]
 two sets growing coag pos staph.
   Assessment and Plan
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KOWLEDGE DEFICIT
 BACK PAIN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down, but febrile again o/n
   - will continue vancomycin
   - consider additional broad spectrum ABx
   - TEE normal and without vegetations
   - will d/w surgery re: Rx for pelvic infection and whether this is
   communicating with epidural abscess.
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on vanc
   - prior images suspicious for epidural phlegmon or abscess
   - mf/u MRI shows: epidural enhancement from L4-S1, edema thru all soft
   tissue in lower spine and psoas, rim enhancing fluid pockets near L5-S1
   sitting in erector spinae muscle, high signal at right half of upper
   sacrum. overall diffuse inflammation and likely infection with focal
   areas of abscess formation. the cauda equina appears unusual (?
   arachnoiditis). very likely that this inflammation is tracking out of
   sacral foramina and into pre-sacral soft tissue
   # Painful L toe/right elbow
   - started low dose colchicine without improvement
   - L toe appears fluctuant and will get I and D after confirming
   fluctuance with US
   - ortho was unable to get fluid out of elbow yesterday
   -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   #  Diahrrea
   - c.diff was negative x 3
 will stop PO vanc
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
   # Resp Status: previous tachypnea with wide A-a gradient, but improved
   today. Tachypnea may be mediated by cytokines related to sepsis.
   Stable on vent this AM, oxygenating and ventilating well.
   - no acute issues at this time
   # Anemia
 Hct 28 to 26 this AM.  Does not appear to be dilutional.
   - will guiac stools, q 8 Hct x 3, order for T&C.
   - GI following.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   - continue to monitor for any acute mental status changes
   # Tachycardia
   - pt is on diltiazem gtt
 have transitioned to PO
   # FEN: NPO after MN for procedures tomorrow
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  Will place CVL today and consider A line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-6-21**] 10:00 AM
   Multi Lumen - [**2121-6-21**] 11:07 AM
   Arterial Line - [**2121-6-21**] 01:16 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 7646**] is in exquisite pain from his RUE and left toe. MRI findings
   noted and conveyed to neurosurgical colleagues. He has extensive
   findings from L4-S1 with features of arachnoiditis and epidural
   collection. Podiatry staff have seen and prefer to debride in OR too.
   WBC os 30.7 K, creat now 1.1 and ABG with Ph of 7.37
   He remains on pressors and fentany/versed. He is understanding of
   simple commands and even the need for surgery while intubated. He
   remains febrile but hemodynamically no worse. He will need to proceed
   to the OR once neurosurgical staff have obtained consent. He may need
   to extubate for this but I am concerned with his pain control, there
   may be a very short window to do so. We will co-ordinate efforts on
   this front, continue high dose IV Vanco and dose per levels.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 60 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2121-6-22**] 13:55 ------

2121-06-23 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2121-6-22**] 05:00 PM
 OR SENT - At [**2121-6-22**] 10:20 PM
 MULTI LUMEN - START [**2121-6-23**] 12:00 AM
 OR RECEIVED - At [**2121-6-23**] 12:30 AM
 FEVER - 101.2
F - [**2121-6-22**] 09:00 PM
   To OR overnight with exploration of back
 supraspinal collection but
   no epidural abscess.   Severe pain with movement of R elbow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-6-20**] 08:00 AM
   Vancomycin - [**2121-6-22**] 08:46 PM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-22**] 08:46 PM
   Midazolam (Versed) - [**2121-6-23**] 02:00 AM
   Fentanyl - [**2121-6-23**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.3
C (97.3
   HR: 72 (68 - 121) bpm
   BP: 95/46(63) {90/43(59) - 133/103(107)} mmHg
   RR: 16 (16 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  2,199 mL
                                                                  1,191 mL
   PO:
             TF:
   IVF:
                                                                  2,199 mL
                                                                  1,191 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    505 mL
   Urine:
                                                                  2,320 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -121 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: 7.31/46/186/22/-3
   Ve: 11.2 L/min
   PaO2 / FiO2: 372
   Physical Examination
   Gen: sedated but arousable by voice
   CV and pulm and abd exam deferred to other team members
   Ext: right arm edematous, Left foot erythema with draining serosang.
   fluid
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   8.4 g/dL
   111 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   26 mg/dL
   114 mEq/L
   142 mEq/L
   25.2 %
   20.5 K/uL
        [image002.jpg]
                             [**2121-6-21**]  05:49 AM
                             [**2121-6-21**]  12:09 PM
                             [**2121-6-21**]  01:30 PM
                             [**2121-6-21**]  08:32 PM
                             [**2121-6-22**]  05:42 AM
                             [**2121-6-22**]  02:51 PM
                             [**2121-6-22**]  03:06 PM
                             [**2121-6-22**]  11:19 PM
                             [**2121-6-23**]  03:10 AM
                             [**2121-6-23**]  03:20 AM
   WBC
   31.8
   30.7
   20.5
   Hct
   24.3
   24.5
   24.8
   26.2
   24.8
   22
   25.2
   Plt
   290
   358
   366
   Cr
   1.0
   1.1
   1.1
   TCO2
   21
   22
   24
   24
   Glucose
   82
   102
   125
   111
   Other labs: PT / PTT / INR:14.5/25.1/1.3, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KOWLEDGE DEFICIT
 BACK PAIN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down, but febrile again o/n
   - will continue vancomycin, ?if second broad [**Doctor Last Name **] like rifampin to ID
   - TEE normal and without vegetations
   - daily ctxs, Vanco trough
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on vanc
   - prior images suspicious for epidural phlegmon or abscess but none per
   neurosurg
   - mf/u MRI shows: epidural enhancement from L4-S1, edema thru all soft
   tissue in lower spine and psoas, rim enhancing fluid pockets near L5-S1
   sitting in erector spinae muscle, high signal at right half of upper
   sacrum. overall diffuse inflammation and likely infection with focal
   areas of abscess formation. the cauda equina appears unusual (?
   arachnoiditis). very likely that this inflammation is tracking out of
   sacral foramina and into pre-sacral soft tissue
   # Painful L toe/right elbow
   - to OR today with podiatry?
   - started low dose colchicine without improvement
   - L toe appears fluctuant and will get I and D after confirming
   fluctuance with US
   # Painful right elbow-
   -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   - MRI today, ortho consult, possibly will need surgery
   #  Diahrrea
   - c.diff was negative x 3
 will stop PO vanc
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
   # Resp Status: previous tachypnea with wide A-a gradient, but improved
   today. Tachypnea may be mediated by cytokines related to sepsis.
   Stable on vent this AM, oxygenating and ventilating well.
   - decrease FiO2
   - CXR
   -ABG with possibly extubation soon
   - no acute issues at this time
   # Anemia
 Hct 28 to 26 this AM.  Does not appear to be dilutional.
   - will guiac stools, q 8 Hct x 3, order for T&C.
   - GI following.
   # Altered Mental Status: unclear baseline, but seems improved today.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   - continue to monitor for any acute mental status changes
   # Tachycardia
   - pt is on Lopressor 2.5mg Q6H
   # FEN: NPO for procedures currently
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  CVL placed [**6-22**] pm.
   ICU Care
   Nutrition: holding tube feeds for OR
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-6-21**] 01:16 PM
   20 Gauge - [**2121-6-22**] 08:36 PM
   Multi Lumen - [**2121-6-23**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-06-24 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2121-6-23**] 04:00 PM
   -spoke to Ortho, they do not neet MRI. Got CT scan instead. Can
   extubate after CT scan
   - podiatry did repeat I&D.
   - Spiked and recultured
   -dental consult stated after extubated obtain dental panorex and see
   oral surgeon
   -Versed now at 1 and Fentanyl at 50
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-6-23**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour (1.5mL/hr)
   Fentanyl (Concentrate) - 100 mcg/hour (1.5 mL/hr)
   Phenylephrine 19.7 mL/hr
   Other ICU medications:
   Midazolam (Versed) - [**2121-6-23**] 08:03 AM
   Fentanyl - [**2121-6-23**] 08:03 AM
   Pantoprazole (Protonix) - [**2121-6-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-6-24**] 12:00 AM
   Other medications:
   150 mEq Sodium Bicarbonate/ 1000 ml D5W
   Acetaminophen (Liquid)
    Acetylcysteine 20%
   Chlorhexidine Gluconate 0.12% Oral Rinse
    Fentanyl Citrate
   Heparin
   Lorazepam
   Metoprolol Tartrate
   Midazolam
   Morphine Sulfate
   OxycoDONE (Immediate Release)
    Pantoprazole
   Phenylephrine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-24**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.8
C (100.1
   HR: 70 (67 - 91) bpm
   BP: 112/53(73) {90/42(58) - 112/57(76)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  2,424 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  2,424 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    520 mL
   Urine:
                                                                  1,485 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                    864 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/43/155/23/-3
   Ve: 8.6 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Gen: opens eyes and follows voice to verbal and physical stimuli,
   intubated
   CV: rrr nl s1/s2 no murmurs
   Pulm: cta b/l from anterior
   Abd: +BS, soft
   Ext: left foot continues to drain serosang fluid on dressing, right
   elbow pain to palpation
   Labs / Radiology
   395 K/uL
   8.2 g/dL
   94 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.5 mEq/L
   27 mg/dL
   117 mEq/L
   145 mEq/L
   25.3 %
   17.1 K/uL
        [image002.jpg]
                             [**2121-6-21**]  08:32 PM
                             [**2121-6-22**]  05:42 AM
                             [**2121-6-22**]  02:51 PM
                             [**2121-6-22**]  03:06 PM
                             [**2121-6-22**]  11:19 PM
                             [**2121-6-23**]  03:10 AM
                             [**2121-6-23**]  03:20 AM
                             [**2121-6-23**]  05:49 PM
                             [**2121-6-24**]  12:46 AM
                             [**2121-6-24**]  02:56 AM
   WBC
   30.7
   20.5
   17.1
   Hct
   24.8
   26.2
   24.8
   22
   25.2
   25.3
   Plt
   358
   366
   395
   Cr
   1.1
   1.1
   1.3
   TCO2
   22
   24
   24
   24
   24
   Glucose
   102
   125
   111
   98
   94
   Other labs: PT / PTT / INR:13.9/25.5/1.2, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Blood ctx [**2126-6-23**] pending
   Urine [**6-23**] pending
   L second toe [**6-23**] GPC pairs
   L second toe tissue ctx and fluid Coag + staph [**6-22**]
   MRI right elbow [**6-24**]: prelim
   Large amount of subcutaneous edema in the right upper extremity. No
   focal
   subcutaneous, intramuscular, or intermuscular fluid collections. No
   subcutaneous emphysema. Small, enhancing elbow joint effusion which
   could be
   inflammatory or infectious. No findings or osteomyelitis.
   CXR [**6-24**]:
   The endotracheal tube has been pulled forward and is now 1.7 cm
   above the [**Month/Year (2) 7685**] with its tip. The tube could be minimally pulled back
   again.
   Unchanged is the course and position of the right sided central venous
   access
   line. Unchanged size of the cardiac silhouette. Unchanged retrocardiac
   atelectasis. Unchanged mild overhydration.
   [**6-23**]:
   Right IJ repositioned, now in mid SVC. ETT now 6.6cm from [**Last Name (LF) 7685**], [**First Name3 (LF) **]
   need
   repositioning. right parenchymal opacity unchanged
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KNOWLEDGE DEFICIT
 BACK PAIN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down, but febrile again yesterday
   - ?if second broad [**Doctor Last Name **] like rifampin to ID
   - TEE normal and without vegetations
   - daily ctxs, random vanco trough 27.6 so hold dose
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on [**Doctor Last Name **]
    - prior images suspicious for epidural phlegmon or abscess but none
   per neurosurg
   - mf/u MRI shows: epidural enhancement from L4-S1, edema thru all soft
   tissue in lower spine and psoas, rim enhancing fluid pockets near L5-S1
   sitting in erector spinae muscle, high signal at right half of upper
   sacrum. overall diffuse inflammation and likely infection with focal
   areas of abscess formation. the cauda equina appears unusual (?
   arachnoiditis). very likely that this inflammation is tracking out of
   sacral foramina and into pre-sacral soft tissue
   # Painful L toe/right elbow
    -s/p I&D with podiatry
   - started low dose colchicine without improvement
   # Painful right elbow-
    -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   -CT today showed small joint effusion/small (1cm) amount of fluid in
   biceps muscle without large collections or evidence of osteo.
   -Ortho consult not needed given these findings.
    #  Diahrrea
   - c.diff was negative x 3
 stopped PO [**Name (NI) 2601**]
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
    # Resp Status: previous tachypnea with wide A-a gradient. Tachypnea
   may be mediated by cytokines related to sepsis.  Stable on vent this
   AM, oxygenating and ventilating well.
    - Fi02 now at 40%
   - CXR f/u
   -ABG with attempt at extubation today
   # Anemia
 Hct 26 to 25 this am.  Does not appear to be dilutional.
   - will guiac stools, q 8 Hct x 3, ordered for T&C.
   - GI following.
   # Altered Mental Status: unclear baseline, but seems improved.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   - continue to monitor for any acute mental status changes
   # Tachycardia
   - pt is on Lopressor 2.5mg Q6H
   # FEN: NPO for procedures currently
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  CVL placed [**6-22**] pm.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-6-21**] 01:16 PM
   20 Gauge - [**2121-6-22**] 08:36 PM
   Multi Lumen - [**2121-6-23**] 12:00 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: in MICU at least while intubated

2121-06-25 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2121-6-24**] 08:00 PM
   -Had CT, nothing for ortho to do (no absesses)
   -Took off sedation for extubation, on [**4-15**]
   -spiked and recultured at 2300
   -BPs stable off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-6-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-6-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-6-25**] 12:00 AM
   Morphine Sulfate - [**2121-6-25**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-25**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38
C (100.4
   HR: 96 (74 - 111) bpm
   BP: 135/71(95) {98/42(58) - 147/91(104)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  2,172 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                  2,172 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    720 mL
   Urine:
                                                                  2,690 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -668 mL
                                                                   -642 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 773 (539 - 773) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/47/127/27/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   7.4 g/dL
   107 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   18 mg/dL
   114 mEq/L
   149 mEq/L
   22.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2121-6-22**]  02:51 PM
                             [**2121-6-22**]  03:06 PM
                             [**2121-6-22**]  11:19 PM
                             [**2121-6-23**]  03:10 AM
                             [**2121-6-23**]  03:20 AM
                             [**2121-6-23**]  05:49 PM
                             [**2121-6-24**]  12:46 AM
                             [**2121-6-24**]  02:56 AM
                             [**2121-6-24**]  07:12 PM
                             [**2121-6-25**]  04:39 AM
   WBC
   20.5
   17.1
   9.2
   Hct
   24.8
   22
   25.2
   25.3
   22.8
   Plt
   366
   395
   371
   Cr
   1.1
   1.3
   1.2
   TCO2
   22
   24
   24
   24
   24
   31
   Glucose
   125
   111
   98
   94
   107
   Other labs: PT / PTT / INR:13.9/25.5/1.2, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: blood ctx [**Date range (1) 7733**] pending
   urine [**6-23**] negative final
   Imaging: CT [**6-24**] prelim Large amount of subcutaneous edema in the right
   upper extremity. No focal subcutaneous, intramuscular, or intermuscular
   fluid collections. No subcutaneous emphysema. Small, enhancing elbow
   joint effusion which could be inflammatory or infectious. No findings
   or osteomyelitis.
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KNOWLEDGE DEFICIT
 BACK PAIN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down, but febrile again yesterday
   - ?if second broad [**Doctor Last Name **] like rifampin to ID
   - TEE normal and without vegetations
   - daily ctxs, random vanco trough 27.6 so hold dose
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on [**Doctor Last Name **]
    - prior images suspicious for epidural phlegmon or abscess but none
   per neurosurg
   - mf/u MRI shows: epidural enhancement from L4-S1, edema thru all soft
   tissue in lower spine and psoas, rim enhancing fluid pockets near L5-S1
   sitting in erector spinae muscle, high signal at right half of upper
   sacrum. overall diffuse inflammation and likely infection with focal
   areas of abscess formation. the cauda equina appears unusual (?
   arachnoiditis). very likely that this inflammation is tracking out of
   sacral foramina and into pre-sacral soft tissue
   # Painful L toe/right elbow
    -s/p I&D with podiatry
   - started low dose colchicine without improvement
   # Painful right elbow-
    -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   -CT today showed small joint effusion/small (1cm) amount of fluid in
   biceps muscle without large collections or evidence of osteo.
   -Ortho consult not needed given these findings.
    #  Diahrrea
   - c.diff was negative x 3
 stopped PO [**Name (NI) 2601**]
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
    # Resp Status: previous tachypnea with wide A-a gradient. Tachypnea
   may be mediated by cytokines related to sepsis.  Stable on vent this
   AM, oxygenating and ventilating well.
    - Fi02 now at 40%
   - CXR f/u
   -ABG with attempt at extubation today
   # Anemia
 Hct 26 to 25 this am.  Does not appear to be dilutional.
   - will guiac stools, q 8 Hct x 3, ordered for T&C.
   - GI following.
   # Altered Mental Status: unclear baseline, but seems improved.
   Alteration likely [**1-13**] severe ongoing infection. Do not suspect CNS
   involvement of infxn.
   - continue to monitor for any acute mental status changes
   # Tachycardia
   - pt is on Lopressor 2.5mg Q6H
   # FEN: NPO for procedures currently
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  CVL placed [**6-22**] pm.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-6-21**] 01:16 PM
   20 Gauge - [**2121-6-22**] 08:36 PM
   Multi Lumen - [**2121-6-23**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-06-26 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-6-25**] 09:25 AM
   intubated without difficulty w/7.5 tube by anesthesia after receiving
   100mg Succs, 200mg Etomidate
 STOOL CULTURE - At [**2121-6-25**] 10:39 AM
 PICC LINE - START [**2121-6-25**] 05:05 PM
   L Basilic
 MULTI LUMEN - STOP [**2121-6-25**] 11:00 PM
 BLOOD CULTURED - At [**2121-6-26**] 06:25 AM
   off PICC w/ AM labs
   - Extubated
   - Advanced diet as tolerated
   - Goal negative 1-2L today.
   - Staples to be removed from back on [**2121-7-3**] per NSurg.
   - PICC placed.
   - IJ d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-6-25**] 08:06 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-6-26**] 12:00 AM
   Other medications:
   Acetaminophen 5. Acetylcysteine 20% 6. Haloperidol 7. Heparin 8.
   Heparin Flush (10 units/ml)
   9. 10. Lorazepam 11. Metoprolol Tartrate 12. Morphine Sulfate 13.
   OxycoDONE (Immediate Release)
   14. Pantoprazole 15. Potassium Chloride 16. Sodium Chloride 0.9% Flush
   17. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-6-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.2
C (97.2
   HR: 69 (67 - 98) bpm
   BP: 145/74(101) {116/62(84) - 154/80(108)} mmHg
   RR: 27 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 98.5 kg
   Height: 68 Inch
             Total In:
                                                                  4,592 mL
                                                                  2,670 mL
   PO:
                                                                  3,700 mL
                                                                  2,600 mL
   TF:
   IVF:
                                                                    832 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                  1,860 mL
   Urine:
                                                                  2,735 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   7.4 g/dL
   114 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.1 mEq/L
   14 mg/dL
   106 mEq/L
   140 mEq/L
   21.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2121-6-22**]  03:06 PM
                             [**2121-6-22**]  11:19 PM
                             [**2121-6-23**]  03:10 AM
                             [**2121-6-23**]  03:20 AM
                             [**2121-6-23**]  05:49 PM
                             [**2121-6-24**]  12:46 AM
                             [**2121-6-24**]  02:56 AM
                             [**2121-6-24**]  07:12 PM
                             [**2121-6-25**]  04:39 AM
                             [**2121-6-25**]  10:38 PM
   WBC
   20.5
   17.1
   9.2
   Hct
   22
   25.2
   25.3
   22.8
   21.6
   Plt
   366
   395
   371
   Cr
   1.1
   1.3
   1.2
   1.1
   TCO2
   22
   24
   24
   24
   24
   31
   Glucose
   125
   111
   98
   94
   107
   114
   Other labs: PT / PTT / INR:13.9/25.5/1.2, CK / CKMB /
   Troponin-T:58//<0.01, ALT / AST:14/37, Alk Phos / T Bili:161/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:4.0 %, Mono:7.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, Albumin:1.8 g/dL, LDH:574 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Blood ctx [**6-26**], 15, 14, 13 pending
   [**6-25**] stool pending
   [**6-23**] urine negative final
   [**6-23**] wound  swab staph auereus; sensitive to [**Month/Year (2) 2601**]
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 INTRAVENOUS DRUG ABUSE (IVDU, IVDA)
 KNOWLEDGE DEFICIT
 BACK PAIN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   55 yo male with hx of MRSA sepsis secondary to joint infections and
   epidural abcess secondary to IVDU presents with marked leukocytosis,
   atrial tachy-arrhythimia, Coag pos Staph bacteremia, and MRSA pelvic
   infection.
   # Staph Bacteremia/MRSA pelvic infection
   - pt
s original blood cx and aspirate from pt
s pelvic infxn both
   growing MRSA
   - WBC trending down, but febrile again
   - ?if second broad [**Doctor Last Name **] for synergy like rifampin to ID
   - TEE normal and without vegetations
   - daily ctxs, random vanco trough 15 so will restart
   -needs PICC even with spikes
   # Hyponatremia- likely from poor PO no feeding, will give D5W.
   #  Back Pain
   - aspirate from pelvic infxn growing MRSA
 pt is on [**Doctor Last Name **]
    - prior images suspicious for epidural phlegmon or abscess but none
   per neurosurg
   - mf/u MRI shows: epidural enhancement from L4-S1, edema thru all soft
   tissue in lower spine and psoas, rim enhancing fluid pockets near L5-S1
   sitting in erector spinae muscle, high signal at right half of upper
   sacrum. overall diffuse inflammation and likely infection with focal
   areas of abscess formation. the cauda equina appears unusual (?
   arachnoiditis). very likely that this inflammation is tracking out of
   sacral foramina and into pre-sacral soft tissue
   # Painful L toe/right elbow
    -podiatry following
   - started low dose colchicine without improvement
   # Painful right elbow-
     -U/S of upper extremity done - no DVT, soft tissue edema; also got
   plain films showing chronic ununited frx of the posterior aspect of the
   olecranon
   -CT showed small joint effusion/small (1cm) amount of fluid in biceps
   muscle without large collections or evidence of osteo.
    #  Diahrrea
   - c.diff was negative x 3
 stopped PO [**Name (NI) 2601**]
   - pt with guaiac positive stools but not melena
 will continue to
   monitor hct daily
   # Resp Status: previous tachypnea with wide A-a gradient. Tachypnea may
   be mediated by cytokines related to sepsis.  Stable on vent this AM,
   oxygenating and ventilating well; much improved response
   -extubation today
   -keep -1L to -2L today because of persistant lung window pathology
   # Anemia
 Hct decreased.
   - recheck H/H today, transfusion threshold <21.
   -guiacs
   -will need endoscopy/colonscopy follow-up
   # Altered Mental Status: unclear baseline, but seems improved.
   - Haldol now
   - LP if MS does not improve
    # Tachycardia
   - pt is on Lopressor 2.5mg Q6H
   # FEN: diet after extubation
   # Access: pt with one peripheral IV (20 gauge).  Other IV was removed
   by pt.  EJ was pulled.  CVL placed [**6-22**] pm.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-6-21**] 01:16 PM
   PICC Line - [**2121-6-25**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: